US06528510B1
N-(4-{2-[5-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-thiazol-2-yl)-acetamide
The title compound was prepared according to General Method 16a using N-{4-[2-(4-hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-thiazol-2-yl}-acetamide (Example E-13: 0.49 g, 1.5 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2; 0.66 g, 1.8 mmol), potassium carbonate (0.83 g, 6.0 mmol), and DMF (5 mL). The product was chromatographed on silica gel, eluting with 5% MeOH in CH2Cl2, to give the title compound, mp 128-130° C.

reactant | N-{4-[2-(4-hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-thiazol-2-yl}-acetamide | 1.5 mmol, 0.49 g | OC=1CC(OC(C1)=O)(C(C)C)CCC=1N=C(SC1)NC(C)=O | C15H20N2O4S
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 1.8 mmol, 0.66 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 6.0 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-{2-[5-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-2-isopropyl-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-thiazol-2-yl)-acetamide | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC1=C(CC(OC1=O)(C(C)C)CCC=1N=C(SC1)NC(C)=O)O | C27H36N2O5S2
